US05990142
18A Methyl 4-(4-phenylbutoxy)benzoate
A mixture of methyl 4-hydroxybenzoate (3 g, 19.7 mmol), 4-phenylbutanol (3.04 ml, 19.7 mmol) and triphenylphosphine (7.74 g, 29.6 mmol) in anhydrous tetrahydrofuran (110 ml) was added with diethyl azodicarboxylate (4.65 ml, 29.6 mmol). The resulting mixture was left under stirring at room temperature for 36 h, then was added with ethyl ether (500 ml) and left to crystallize for 24 hours at 0° C. After that the solid was filtered and the filtrate was washed successively with 0.2M hydrochloric acid, 5% sodium bicarbonate and a sodium chloride saturated solution. After drying and removing the solvent under reduced pressure, a residue was obtained which was purified by chromatography through a silica gel column, eluting with petroleum ether:chloroform mixtures of increasing polarity, thereby recovering 3.856 g of the title compound (70% yield).

reactant | methyl 4-hydroxybenzoate | 19.7 mmol, 3 g | OC1=CC=C(C(=O)OC)C=C1 | C8H8O3
reactant | 4-phenylbutanol | 19.7 mmol, 3.04 ml | C1(=CC=CC=C1)CCCCO | C10H14O
reactant | triphenylphosphine | 29.6 mmol, 7.74 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 29.6 mmol, 4.65 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 110 ml | O1CCCC1 | C4H8O
solvent | ethyl ether | 500 ml | C(C)OCC | C4H10O
product | Methyl 4-(4-phenylbutoxy)benzoate | 3.856 g, 70% yield | C1(=CC=CC=C1)CCCCOC1=CC=C(C(=O)OC)C=C1 | C18H20O3
